US07842810B2
5,7-Difluoro-3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid
Ethyl 3-nitro-2,4,6-trifluorobenzoate. To a suspension of ethyl 2,4,6-trifluorobenzoate (3.93 g, 19.2 mmol) in conc. H2SO4 at 0° C. was added conc. HNO3 (70% HNO3) dropwise via pipet. After the addition was complete, the reaction was allowed to warm to RT and stir for 4 h. The biphasic mixture was poured into H2O and extracted with CH2Cl2 (3×). The combined organic layers were dried (Na2SO4) and concentrated to provide 4.71 g (98%) of the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3): 6.96 (ddd, J=9.2, 9.2, 2.2, 1H), 4.45 (q, J=7.2, 2H), 1.40 (t, J=7.2, 3H).

reactant | Ethyl 3-nitro-2,4,6-trifluorobenzoate | [N+](=O)([O-])C=1C(=C(C(=O)OCC)C(=CC1F)F)F | C9H6F3NO4
reactant | ethyl 2,4,6-trifluorobenzoate | 19.2 mmol, 3.93 g | FC1=C(C(=O)OCC)C(=CC(=C1)F)F | C9H7F3O2
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | H2O | O | H2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 5,7-Difluoro-3-oxo-3,4-dihydro-2H-benzo[1,4]thiazine-6-carboxylic acid | 4.71 g, 98% | FC1=C(C(=CC2=C1NC(CS2)=O)F)C(=O)O | C9H5F2NO3S
